US07612114B2
To a solution of 4-fluorobenzonitrile (2.0 g) and 1-methylpiperazine (2.5 g) in dimethylsulfoxide (30 ml) was added potassium carbonate (4.6 g), and the solution was stirred for 1 hour at 120° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide 4-(4-methylpiperazin-1-yl)benzonitrile (2.34 g). This compound (1.1 g) was used according to an analogous synthetic method to Preparation Example 16 to provide the title compound (1.1 g).

reactant | 4-fluorobenzonitrile | 2.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 1-methylpiperazine | 2.5 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 4-(4-methylpiperazin-1-yl)benzonitrile | 2.34 g | CN1CCN(CC1)C1=CC=C(C#N)C=C1 | C12H15N3
